US05700801
b) 3-[4-(4-Pyridyl)-piperazin-1-yl]-propionic acid
To a solution of 6 g (0.02 Mol) of methyl 3-[4(4-pyridyl)piperazin-1-yl]propionate dihydrochloride in 80 ml of tetrahydrofuran and 100 ml of water is added a solution of 4.2 g (0.1 Mol) of lithium hydroxide in 100 ml of water and the mixture is stirred for two hours at ambient temperature. It is then evaporated to dryness in vacuo and the residue remaining is taken up in absolute ethanol. 5.3 g (0.1 Mol) of ammonium chloride are added, the inorganic salts precipitated are suction filtered and the solution remaining is evaporated to dryness. The residue is triturated with ether and suction filtered.

reactant | methyl 3-[4(4-pyridyl)piperazin-1-yl]propionate dihydrochloride | 0.02 Mol, 6 g | Cl.Cl.N1=CC=C(C=C1)N1CCN(CC1)CCC(=O)OC
reactant | lithium hydroxide | 0.1 Mol, 4.2 g | [OH-].[Li+]
reactant | ammonium chloride | 0.1 Mol, 5.3 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 3-[4-(4-Pyridyl)-piperazin-1-yl]-propionic acid | N1=CC=C(C=C1)N1CCN(CC1)CCC(=O)O | C12H17N3O2
